*
*|DSPF 1.5
*
*|DATE "Mon Jan 15 10:35:09 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "OAI22X2"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  OAI22X2 A0 A1 B0 B1 Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A0 5.21101e-16
*|P (A0 X 0 0.4720 2.1390)
*|I (MX30/M0#g MX30/M0 g X 0 0.4750 0.9700)
*|I (MX30/M1#g MX30/M1 g X 0 0.9050 0.9700)
*|I (MX28/M0#g MX28/M0 g X 0 0.4750 2.9850)
*|I (MX28/M1#g MX28/M1 g X 0 0.9050 2.9850)
*|S (A0#13 0.9050 1.8900)
*|S (A0#14 0.6900 1.8900)
*|S (A0#15 0.4650 1.8900)
*|S (A0#17 0.4600 1.8900)
C1 MX28/M1#g VSS 5.85404e-17
C2 MX28/M0#g VSS 6.67345e-17
C3 MX30/M1#g VSS 4.29112e-17
C4 MX30/M0#g VSS 4.62533e-17
C5 A0#14 VSS 1.00694e-16
C6 A0 VSS 2.05967e-16
Rg1 MX28/M1#g A0#13 345.685425 $W=0.15
Rg2 A0#13 A0#14 20.521515 $W=0.33
Rg3 A0#14 A0#15 20.521515 $W=0.33
Rg4 A0#15 MX30/M0#g 288.664734 $W=0.15
Rg5 A0#13 MX30/M1#g 288.664734 $W=0.15
Rg6 A0#15 MX28/M0#g 345.685425 $W=0.15
Rf7 A0#14 A0#17 24.817646 $W=0.17
Re8 A0 A0#17 152.119705 $W=0.26
*
*|NET A1 5.32749e-16
*|P (A1 X 0 2.7720 1.8340)
*|I (MX31/M0#g MX31/M0 g X 0 2.7150 0.9700)
*|I (MX31/M1#g MX31/M1 g X 0 3.1450 0.9700)
*|I (MX29/M0#g MX29/M0 g X 0 2.7150 2.9850)
*|I (MX29/M1#g MX29/M1 g X 0 3.1450 2.9850)
*|S (A1#13 3.1450 1.8900)
*|S (A1#14 2.9300 1.8900)
*|S (A1#15 2.7050 1.8900)
*|S (A1#17 2.7600 1.8900)
C7 MX29/M1#g VSS 6.43597e-17
C8 MX29/M0#g VSS 6.95525e-17
C9 MX31/M1#g VSS 4.36006e-17
C10 MX31/M0#g VSS 4.82283e-17
C11 A1#14 VSS 8.20347e-17
C12 A1 VSS 2.24973e-16
Rg9 MX29/M1#g A1#13 345.685425 $W=0.15
Rg10 A1#13 A1#14 20.521515 $W=0.33
Rg11 A1#14 A1#15 20.521515 $W=0.33
Rg12 A1#15 MX31/M0#g 288.664734 $W=0.15
Rg13 A1#13 MX31/M1#g 288.664734 $W=0.15
Rg14 A1#15 MX29/M0#g 345.685425 $W=0.15
Rf15 A1#14 A1#17 20.299999 $W=0.17
Re16 A1 A1#17 152.026917 $W=0.26
*
*|NET B0 5.29541e-16
*|P (B0 X 0 1.3920 2.1190)
*|I (MX32/M0#g MX32/M0 g X 0 1.3350 0.9700)
*|I (MX32/M1#g MX32/M1 g X 0 1.7650 0.9700)
*|I (MX26/M0#g MX26/M0 g X 0 1.3350 2.9850)
*|I (MX26/M1#g MX26/M1 g X 0 1.7650 2.9850)
*|S (B0#13 1.7650 1.8900)
*|S (B0#14 1.5500 1.8900)
*|S (B0#15 1.3250 1.8900)
*|S (B0#17 1.3800 1.9850)
C13 MX26/M1#g VSS 6.45848e-17
C14 MX26/M0#g VSS 6.71274e-17
C15 MX32/M1#g VSS 5.00664e-17
C16 MX32/M0#g VSS 4.83488e-17
C17 B0#17 VSS 9.16555e-17
C18 B0 VSS 2.07758e-16
Rg17 MX26/M1#g B0#13 345.685425 $W=0.15
Rg18 B0#13 B0#14 20.521515 $W=0.33
Rg19 B0#14 B0#15 20.521515 $W=0.33
Rg20 B0#15 MX32/M0#g 288.664734 $W=0.15
Rg21 B0#13 MX32/M1#g 288.664734 $W=0.15
Rg22 B0#15 MX26/M0#g 345.685425 $W=0.15
Rf23 B0#14 B0#17 15.711321 $W=0.265
Re24 B0 B0#17 152.064423 $W=0.26
*
*|NET B1 6.22123e-16
*|P (B1 X 0 3.6920 1.9190)
*|I (MX33/M0#g MX33/M0 g X 0 3.5750 0.9700)
*|I (MX33/M1#g MX33/M1 g X 0 4.0050 0.9700)
*|I (MX27/M0#g MX27/M0 g X 0 3.5750 2.9850)
*|I (MX27/M1#g MX27/M1 g X 0 4.0050 2.9850)
*|S (B1#13 4.0050 1.8900)
*|S (B1#14 3.7900 1.8900)
*|S (B1#15 3.5650 1.8900)
*|S (B1#17 3.6800 1.8900)
C19 MX27/M1#g VSS 6.69058e-17
C20 MX27/M0#g VSS 6.14894e-17
C21 MX33/M1#g VSS 4.90873e-17
C22 MX33/M0#g VSS 4.68013e-17
C23 B1#14 VSS 9.55815e-17
C24 B1 VSS 3.02258e-16
Rg25 MX27/M1#g B1#13 345.685425 $W=0.15
Rg26 B1#13 B1#14 20.521515 $W=0.33
Rg27 B1#14 B1#15 20.521515 $W=0.33
Rg28 B1#15 MX33/M0#g 288.664734 $W=0.15
Rg29 B1#13 MX33/M1#g 288.664734 $W=0.15
Rg30 B1#15 MX27/M0#g 345.685425 $W=0.15
Rf31 B1#14 B1#17 15.782353 $W=0.17
Re32 B1#17 B1 152.013947 $W=0.26
*
*|NET Y 2.13972e-15
*|P (Y X 0 4.1520 1.9890)
*|I (MX33/M0#d MX33/M0 d X 0 3.6505 0.9700)
*|I (MX33/M1#s MX33/M1 s X 0 3.9295 0.9700)
*|I (MX32/M0#d MX32/M0 d X 0 1.4105 0.9700)
*|I (MX32/M1#s MX32/M1 s X 0 1.6895 0.9700)
*|I (MX29/M0#s MX29/M0 s X 0 2.6395 2.9850)
*|I (MX29/M1#d MX29/M1 d X 0 3.2205 2.9850)
*|I (MX27/M0#s MX27/M0 s X 0 3.4995 2.9850)
*|I (MX27/M1#d MX27/M1 d X 0 4.0805 2.9850)
*|S (Y#1 1.5500 1.0150)
*|S (Y#4 2.5000 2.8550)
*|S (Y#6 3.3600 2.8550)
*|S (Y#7 3.7900 1.0150)
*|S (Y#10 4.2200 2.9450)
C25 MX29/M1#d VSS 1.81755e-16
C26 MX29/M0#s VSS 1.63326e-16
C27 MX32/M0#d VSS 1.36253e-16
C28 MX33/M0#d VSS 1.34442e-16
C29 Y#1 VSS 3.27494e-16
C30 Y#4 VSS 1.42085e-16
C31 Y#6 VSS 1.69718e-16
C32 Y#7 VSS 4.37952e-16
C33 Y#10 VSS 2.96249e-16
C34 Y VSS 1.50444e-16
Rf33 Y#1 MX32/M0#d 10.888235 $W=0.17
Rf34 MX29/M0#s Y#4 14.788236 $W=0.17
Rf35 MX29/M1#d Y#6 166.788239 $W=0.17
Rf36 Y#7 MX33/M0#d 162.888229 $W=0.17
Rf37 MX27/M1#d Y#10 56.283535 $W=0.83
Re38 Y Y#10 0.367692 $W=0.325
Re39 Y Y#7 0.483809 $W=0.29
Re40 Y#7 Y#1 153.191528 $W=0.23
Re41 Y#10 Y#6 0.421099 $W=0.23
Re42 Y#6 Y#4 152.441528 $W=0.23
Rmw43 MX33/M1#s MX33/M0#d 0.001000 $W=1000000
Rmw44 MX32/M1#s MX32/M0#d 0.001000 $W=1000000
Rmw45 MX27/M0#s MX29/M1#d 0.001000 $W=1000000
*
*|NET 1 1.20708e-15
*|I (MX29/M0#d MX29/M0 d X 0 2.7905 2.9850)
*|I (MX29/M1#s MX29/M1 s X 0 3.0695 2.9850)
*|I (MX28/M0#d MX28/M0 d X 0 0.5505 2.9850)
*|I (MX28/M1#s MX28/M1 s X 0 0.8295 2.9850)
*|S (1 0.6900 3.6550)
*|S (1#3 2.9300 3.6550)
C35 MX28/M0#d VSS 1.77353e-16
C36 MX29/M0#d VSS 2.00383e-16
C37 1#3 VSS 4.36376e-16
C38 1 VSS 3.92966e-16
Rf46 1 MX28/M0#d 55.447060 $W=0.17
Rf47 1#3 MX29/M0#d 55.447060 $W=0.17
Re48 1#3 1 305.191528 $W=0.23
Rmw49 MX29/M1#s MX29/M0#d 0.001000 $W=1000000
Rmw50 MX28/M1#s MX28/M0#d 0.001000 $W=1000000
*
*|NET 15 1.04253e-15
*|I (MX27/M0#d MX27/M0 d X 0 3.6505 2.9850)
*|I (MX27/M1#s MX27/M1 s X 0 3.9295 2.9850)
*|I (MX26/M0#d MX26/M0 d X 0 1.4105 2.9850)
*|I (MX26/M1#s MX26/M1 s X 0 1.6895 2.9850)
*|S (15 1.5500 3.2250)
*|S (15#3 3.7900 3.2850)
C39 MX26/M0#d VSS 1.96606e-16
C40 MX27/M0#d VSS 2.0431e-16
C41 15#3 VSS 3.33989e-16
C42 15 VSS 3.07625e-16
Rf51 15 MX26/M0#d 23.070589 $W=0.17
Rf52 15#3 MX27/M0#d 27.588236 $W=0.17
Re53 15#3 15 305.191528 $W=0.23
Rmw54 MX27/M1#s MX27/M0#d 0.001000 $W=1000000
Rmw55 MX26/M1#s MX26/M0#d 0.001000 $W=1000000
*
*|NET 16 1.82179e-15
*|I (MX33/M0#s MX33/M0 s X 0 3.4995 0.9700)
*|I (MX33/M1#d MX33/M1 d X 0 4.0805 0.9700)
*|I (MX32/M0#s MX32/M0 s X 0 1.2595 0.9700)
*|I (MX32/M1#d MX32/M1 d X 0 1.8405 0.9700)
*|I (MX31/M0#s MX31/M0 s X 0 2.6395 0.9700)
*|I (MX31/M1#d MX31/M1 d X 0 3.2205 0.9700)
*|I (MX30/M0#s MX30/M0 s X 0 0.3995 0.9700)
*|I (MX30/M1#d MX30/M1 d X 0 0.9805 0.9700)
*|S (16 0.2600 0.9700)
*|S (16#2 0.2600 0.7650)
*|S (16#4 1.1200 0.7650)
*|S (16#6 1.9800 0.5850)
*|S (16#8 2.5000 0.5850)
*|S (16#10 3.3600 0.5850)
*|S (16#12 4.2200 0.5850)
*|S (16#14 1.1200 0.5550)
C43 MX31/M0#s VSS 8.39448e-17
C44 MX32/M1#d VSS 7.68657e-17
C45 MX33/M1#d VSS 8.2959e-17
C46 MX33/M0#s VSS 1.18826e-16
C47 16#14 VSS 2.28323e-16
C48 16#2 VSS 2.55998e-16
C49 16#4 VSS 1.28809e-16
C50 16#6 VSS 1.91915e-16
C51 16#8 VSS 2.02729e-16
C52 16#10 VSS 2.54987e-16
C53 16#12 VSS 1.96434e-16
Rf56 16 16#2 15.830159 $W=0.315
Rf57 MX32/M0#s 16#4 15.830159 $W=0.315
Rf58 MX32/M1#d 16#6 188.488235 $W=0.17
Rf59 MX31/M0#s 16#8 188.488235 $W=0.17
Rf60 MX33/M0#s 16#10 188.488235 $W=0.17
Rf61 MX33/M1#d 16#12 36.488235 $W=0.17
Re62 16#4 16#14 76.062996 $W=0.23
Re63 16#14 16#2 76.521576 $W=0.23
Re64 16#14 16#6 0.449676 $W=0.23
Re65 16#6 16#8 0.256747 $W=0.23
Re66 16#8 16#10 0.441529 $W=0.23
Re67 16#10 16#12 152.441528 $W=0.23
Rmw68 MX31/M1#d MX33/M0#s 0.001000 $W=1000000
Rmw69 MX30/M0#s 16 0.001000 $W=1000000
Rmw70 MX30/M1#d MX32/M0#s 0.001000 $W=1000000
*
*Instance Section
*
MX33/M0	MX33/M0#d	MX33/M0#g	MX33/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX33/M1	MX33/M1#d	MX33/M1#g	MX33/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX32/M0	MX32/M0#d	MX32/M0#g	MX32/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX32/M1	MX32/M1#d	MX32/M1#g	MX32/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX31/M0	VSS	MX31/M0#g	MX31/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX31/M1	MX31/M1#d	MX31/M1#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX30/M0	VSS	MX30/M0#g	MX30/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX30/M1	MX30/M1#d	MX30/M1#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX29/M0	MX29/M0#d	MX29/M0#g	MX29/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX29/M1	MX29/M1#d	MX29/M1#g	MX29/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX28/M0	MX28/M0#d	MX28/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX28/M1	VDD	MX28/M1#g	MX28/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX27/M0	MX27/M0#d	MX27/M0#g	MX27/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX27/M1	MX27/M1#d	MX27/M1#g	MX27/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX26/M0	MX26/M0#d	MX26/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX26/M1	VDD	MX26/M1#g	MX26/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
.ENDS
